* this code implements a permanent magnet synchronous machine (PMSM) model
* with a sinusoidal back EMF
* pmsm model. as, bs, cs are the phase voltages and theta is the electrical angle as output

.subckt pmsm as bs cs theta rpm
+rs=3.4 ls=12.1e-3 poles=4 
+lambda_m=0.0827 Tl=0 J=5e-4 Bm=1e-9

.include "clark_park.lib"
************ PMSM model. Inside the motor this is what hapens
.param Lq={Ls}
.param Ld={Ls}
.param Rq={rs}
.param Rd={rs}

* convertering the input voltages from abc to dq references frame
Xclark as bs cs alpha beta clark
Xpark alpha beta theta qinit dinit park
Eqs qs iqs_1 value={v(qinit)}
Eds ds ids_1 value={v(dinit)}
Viqs iqs_1 0 DC 0V
Vids ids_1 0 DC 0V

* convert currents to voltage, so we can send them to subckts
Eiqs iqs 0 value={-i(viqs)}
Eids ids 0 value={-i(vids)}


* emulate the phase currents
Xiab iqs ids theta ialpha ibeta park
Gas as n value={v(ialpha)}
Gbs bs n value={-1/2*v(ialpha) + sqrt(3)/2*v(ibeta)}
Gcs cs n value={-1/2*v(ialpha) - sqrt(3)/2*v(ibeta)}
can n 0 1e-9
ran n 0 1e12 

* now build the dq model of the PMSM based on my course
Rq   qs  qs1  {Rq}
Lq   qs1 qs2  {Lq}
Eq   qs2 qs3  value={Ld*v(we)*v(ids)}
Eemf qs3  0    value={lambda_m*v(we)}

Rd ds  ds1 {Rd}
Ld ds1 ds2 {Ld}
Ed ds2 0   value={-Lq*v(we)*v(iqs)}

* Flux linkage equations lambda_qs and lambda_ds 
Elqs lqs 0 value={Lq*v(iqs)}
Elds lds 0 value={Ld*v(ids) + lambda_m}

* Electrical Toque calculation, Te
Ete te 0 value={3/2 * poles/2 * (v(lds)*v(iqs) - v(lqs)*v(ids))}


* shaft speed (wm) calculation wm = Te-Tl /(J*s + Bm)
Etl tl 0 value={tl} 
Etetl te_tl 0 value={v(te) - v(tl)}
Awm te_tl wm wmblk
.model wmblk s_xfer(num_coeff=[1] den_coeff=[{J} {Bm}] int_ic=[0])
Erpm rpm 0 value={v(wm)*60/2/3.14}

* electrical speed calculation
Ewe we 0 value={poles/2*v(wm)}

* a temporary soltuion for theta, which is the angle of the rotor
* once you calculat theta based on we you can remove this
*.param fline=5
*Vtheta theta 0 DC 0V PWL(0s 0V {1/fline} {2*3.14} {1/fline} 0V r=0s)
*TODO: need to make a roll-over integration blcok for theta
Atheta we theta thblk
.model thblk int(in_offset=0.0 gain=1.0
+ out_lower_limit=-1e12 out_upper_limit=1e12
+ limit_range=1e-9 out_ic=0.0)


.ends pmsm

